US08022062B2
To a mixture of 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (146 mg, 0.30 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (12 mg, 0.015 mmol) under dry nitrogen add with stirring a solution of 0.5 M cyclohexylzinc bromide in THF (3.0 mL, 1.5 mmol). Degas, purge with dry nitrogen, and stir overnight at 60° C. Cool to ambient temperature, dilute with EtOAc, wash with water, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (5:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(5-cyclohexyl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (46 mg, 32%). MS (APCI+) m/z: 487 (M+H)+. Use a method similar to the General Procedure 14 to give the title compound as a white solid. MS (APCI+) m/z: 387 (M+H)+.

reactant | 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.30 mmol, 146 mg | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | cyclohexylzinc bromide | 0.5 M | [Br-].C1(CCCCC1)[Zn+]
reactant | THF | 1.5 mmol, 3.0 mL | C1CCOC1 | C4H8O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.015 mmol, 12 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-tert-butoxycarbonyl-7-chloro-6-(5-cyclohexyl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 46 mg, 32% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)C2CCCCC2 | C27H35ClN2O2S
